US07612067B2
Preparation of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-phenyl-thiazol-2-yl}-morpholine
50 mg of 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.11 mmol), 40 mg of phenylboronic acid (0.33 mmol) and 0.27 ml of 2 M Na2CO3aq. (0.55 mmol) are put in 2.5 ml of DME/water/EtOH=7/3/1. N2 gas is bubbled in the mixture for 20 min and 20 mg of Pd(PPh3)4 (0.017 mmol) is added. The vial is sealed and heated at 160° C. for 30 min in Microwave. The reaction mixture are added CH2Cl2 and water and the organic layer is separated, washed with brine, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt=10:1) to give 27 mg of the title compound. Yield 54% mass spectrum (m/e): 462 (M+1). δ 8.29 (m, 1H), 7.60 (m, 2H), 7.44 (m, 1H), 7.22 (m, 1H), 6.70 (s, 1H), 3.90 (t, J=4.6 Hz, 4H), 3.64 (t, J=5.0 Hz, 4H), 3.36 (m, 1H), 2.52 (s, 3H), 2.09 (s, 3H), 1.86 (m, 4H), 0.90 (t, J=7.4 Hz, 6H).

reactant | 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.11 mmol, 50 mg | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
reactant | phenylboronic acid | 0.33 mmol, 40 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | DME water EtOH | 2.5 ml | COCCOC.O.CCO
catalyst | Pd(PPh3)4 | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-phenyl-thiazol-2-yl}-morpholine | 27 mg, Yield 54% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N2CCOCC2)C2=CC=CC=C2 | C26H31N5OS
